US08530648B2
a) 2-(3-iodobenzyl)-9-(quinoxalin-2-yl)-2,9-diazaspiro[5.5]undecan-1-one
The title compound was synthesized in analogy to method A from 2,9-diazaspiro[5.5]undecan-1-one (TFA salt) [1190586-22-1], 3-iodobenzyl bromide [49617-83-6] and 2-chloroquinoxaline [1448-87-9]. [LCMS RtF=1.99 min, [M+H]+=513.0].

reactant | 2,9-diazaspiro[5.5]undecan-1-one | C1(NCCCC12CCNCC2)=O | C9H16N2O
reactant | 3-iodobenzyl bromide | IC=1C=C(CBr)C=CC1 | C7H6BrI
reactant | 2-chloroquinoxaline | ClC1=NC2=CC=CC=C2N=C1 | C8H5ClN2
product | 2-(3-iodobenzyl)-9-(quinoxalin-2-yl)-2,9-diazaspiro[5.5]undecan-1-one | IC=1C=C(CN2C(C3(CCC2)CCN(CC3)C3=NC2=CC=CC=C2N=C3)=O)C=CC1 | C24H25IN4O
